US09403808B2
(5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (2-carbamoyl-1,1-dimethyl-ethyl)-amide
The title compound was synthesized in analogy to Example 6, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 50 mg, 0.21 mmol) and 3-amino-3-methyl-butanamide hydrochloride (1:1) (CAN 173336-86-2, 35.8 mg, 0.235 mmol) as starting materials and isolated (56 mg, 79%) as light yellow solid; LC-MS (UV peak area, ESI) 100%, 333.1926 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.21 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 3-amino-3-methyl-butanamide hydrochloride | 0.235 mmol, 35.8 mg | Cl.NC(CC(=O)N)(C)C
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (2-carbamoyl-1,1-dimethyl-ethyl)-amide | C(N)(=O)CC(C)(C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C17H24N4O3
